US04748162
p-Nitrobenzyl (5R,6R)-2-ethylsulfinyl-6-(2-hydroxy-2-propyl)-pen-2-em-3-carboxylate
A solution of 85% m-chloroperoxybenzoic acid (112 mg, 0.55 mmol) in CH2Cl2 (2.5 ml) is added dropwise over 5 mins. to an ice-cold, stirring solution of p-nitrobenzyl (5R,6R)-2-ethylthio-6-(2-hydroxy-2-propyl)-pen-2-em-3-carboxylate (212 mg, 0.5 mmol) in CH2Cl2 (5 ml). The mixture is stirred for 1 hour at 0°, then treated with excess Amberlyst-21 resin and stirred 5 minutes longer. The mixture is filtered and the filtrate is evaporated under vacuum to provide the crude product.

reactant | m-chloroperoxybenzoic acid | 0.55 mmol, 112 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | p-nitrobenzyl (5R,6R)-2-ethylthio-6-(2-hydroxy-2-propyl)-pen-2-em-3-carboxylate | 0.5 mmol, 212 mg | C(C)SC=1S[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@H]2C(C)(C)O)=O | C18H20N2O6S2
solvent | CH2Cl2 | 2.5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl (5R,6R)-2-ethylsulfinyl-6-(2-hydroxy-2-propyl)-pen-2-em-3-carboxylate | C(C)S(=O)C=1S[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@H]2C(C)(C)O)=O | C18H20N2O7S2
